US07078405B2
Triethylamine (0.202 mL, 1.4 mmol), t-butyl alcohol (5 mL) and diphenylphospholylazide (0.26 mL, 1.2 mmol) were added to a solution of the crude 8-(2,4-dimethylphenyl)-2-ethylimidazo[1,2-b]pyridazine-3-carboxylic acid (1.206 mmol) in toluene (10 mL), and the mixture was heated at 90° C. for 1 hour and 110° C. for 4 hours. Water was added thereto, which was extracted with ethyl acetate. The organic layer was washed with an aqueous saturated sodium bicarbonate solution and brine, dried over anhydrous magnesium sulfate and evaporated, to give crude tert-butyl N-[8-(2,4-dimethylphenyl)-2-ethylimidazo[1,2-b]pyridazin-3-yl]carbamate.

reactant | Triethylamine | 1.4 mmol, 0.202 mL | C(C)N(CC)CC | C6H15N
reactant | t-butyl alcohol | 5 mL | C(C)(C)(C)O | C4H10O
reactant | diphenylphospholylazide | 1.2 mmol, 0.26 mL | C1(=CC=CC=C1)C=1C(=C(PC1)N=[N+]=[N-])C1=CC=CC=C1 | C16H12N3P
reactant | 8-(2,4-dimethylphenyl)-2-ethylimidazo[1,2-b]pyridazine-3-carboxylic acid | 1.206 mmol | CC1=C(C=CC(=C1)C)C=1C=2N(N=CC1)C(=C(N2)CC)C(=O)O | C17H17N3O2
reactant | Water | O | H2O
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | tert-butyl N-[8-(2,4-dimethylphenyl)-2-ethylimidazo[1,2-b]pyridazin-3-yl]carbamate | CC1=C(C=CC(=C1)C)C=1C=2N(N=CC1)C(=C(N2)CC)NC(OC(C)(C)C)=O | C21H26N4O2
